Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Demerol / codeine
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS: 
Mr. ___ is a ___ male with history of ___
esophagus, HTN, HLD, and a history of smoking who presents with 
1
week of worsening reflux symptoms radiating to jaw, concerning
for ACS. 

The patient reports that he normally has GERD-related substernal
chest pain intermittently. Typically, his GERD pain is a
substernal burning that is intermittent, worsening w/ food, and
accompanied by belching and coughing. However, he reports that
over the past week, his chest pain has been more intense
(___). Additionally, he has noticed that his chest pain has
been radiating into bilateral jaws and also occurs while
standing, while previously he only had chest pain with lying
down. Otherwise, he describes his chest pain as being
non-exertional. He reports that his reflux was previously stable
and he has been compliant with all his medications. His diet had
not changed this week either. He otherwise denies SOB,
fevers/chills, productive cough. 

 
Past Medical History:
PAST MEDICAL HISTORY:
=======================
GASTROESOPHAGEAL REFLUX c/b ___ ESOPHAGUS   
COLONIC POLYPS   

1. CARDIAC RISK FACTORS
- Diabetes
- Hypertension
- Dyslipidemia
2. CARDIAC HISTORY
- None
3. OTHER PAST MEDICAL HISTORY
- GERD w/ ___ esophagus
 
Social History:
___
Family History:
FAMILY HISTORY:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
Admission PHYSICAL EXAMINATION:
=======================
VS: T 98.2F, BP 132/72, HR 60, and O2 sat 96%
GENERAL: Patient appears to be in no apparent distress
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.
NECK: Supple. Unable to appreciate JVP
CARDIAC: Normal S1, S2 without murmurs, rubs, or gallops
LUNGS: clear to auscultation bilaterally
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.

Discharge Physical Exam:
PHYSICAL EXAMINATION:
=======================
24 HR Data (last updated ___ @ 444)
    Temp: 98.5 (Tm 98.6), BP: 121/81 (102-134/65-83), HR: 54
(54-69), RR: 18 (___), O2 sat: 96% (94-97), O2 delivery: Ra  

GENERAL: Patient appears to be in no apparent distress
HEENT: Normocephalic atraumatic. 
CARDIAC: Normal S1, S2 without murmurs, rubs, or gallops
LUNGS: clear to auscultation bilaterally no crackles or wheezes. 

ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema. No hematoma in right wrist. 2+ pulses 
bilateral upper and lower extremities. 
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.

 
Pertinent Results:
Admission Labs:
___ 12:40PM BLOOD WBC-7.8 RBC-5.26 Hgb-14.7 Hct-43.7 MCV-83 
MCH-27.9 MCHC-33.6 RDW-14.0 RDWSD-42.1 Plt ___
___ 12:40PM BLOOD Glucose-102* UreaN-24* Creat-1.0 Na-140 
K-4.1 Cl-101 HCO3-24 AnGap-15
___ 03:30PM BLOOD ALT-20 AST-36 CK(CPK)-184 AlkPhos-54 
TotBili-0.4
___ 12:40PM BLOOD cTropnT-0.04*
___ 03:30PM BLOOD cTropnT-0.06*
___ 11:24PM BLOOD CK-MB-9 cTropnT-0.21*
___ 07:38AM BLOOD CK-MB-8 cTropnT-0.24*
___ 08:40AM BLOOD CK-MB-7 cTropnT-0.22*

Pertinent Interval Labs:
___ 07:59AM BLOOD WBC-6.7 RBC-4.96 Hgb-13.7 Hct-42.0 MCV-85 
MCH-27.6 MCHC-32.6 RDW-14.5 RDWSD-43.8 Plt ___
___ 07:59AM BLOOD Glucose-107* UreaN-14 Creat-1.0 Na-141 
K-4.4 Cl-104 HCO3-25 AnGap-12
___ 08:40AM BLOOD CK-MB-7 cTropnT-0.22*
___ 07:59AM BLOOD Calcium-9.3 Phos-2.8 Mg-2.0

Catheterization Results: 
1 vessel disease: Cx: The Circumflex artery, which arises from 
the LM, is a large caliber vessel. There is a 95% stenosis
in the proximal segment. There is a moderate thrombus in the 
proximal segment.
The Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel.

A 6 ___ EBU3.5 guide provided adequate support. Crossed with 
a Prowater wire into the distal Cx.
Predilated with a 2.5 mm balloon and then deployed a 2.5 mm x 15 
mm DES. Postdilated with a 3.5mm
balloon proximally. Final angiography revealed normal flow, no 
dissection and 0% residual stenosis.

TTE:
IMPRESSION: Normal biventricular wall thicknesses, cavity sizes, 
and regional/global systolic
function. Mild pulmonary artery systolic hypertension.
 
Brief Hospital Course:
=====================
ASSESSMENT AND PLAN:
=====================
Dr. ___ is a ___ male with history of ___ 
esophagus, HTN, HLD, and a history of smoking who presents with 
1 week of worsening non exertional reflux symptoms with 
additional occasional features of chest pressure radiating to 
jaw. Found to have uptrending troponins and NSTEMI with plan for 
cardiac catheterization. 

===============
ACTIVE ISSUES:
===============
#NSTEMI 
Dr. ___ presented with a one-week history of worsening 
nonexertional reflux symptoms. With occasional feelings of chest 
pressure which radiated to the jaw. There was no associated 
nausea vomiting or diaphoresis he presented to the emergency 
department on a day off. His electrocardiogram on admission was 
notable for T-wave inversion in lead III however no ST changes. 
Q waves were noted in inferior leads as well. Troponins were 
notable for uptrending which she was started on a heparin drip. 
Catheterization showed 95% lesion in the circumflex which was 
successfully stented with a drug-eluting stent. He has been 
started on ticagrelor BID and aspirin. An echocardiogram was 
performed after procedure which showed LV EF of 67% with normal 
biventricular wall thickness, cavity sizes, and regional/global 
systolic function. Mild pulmonary artery systolic hypertension. 
Patient will need ___ with outpatient cardiologist for 
continued medical management of coronary artery disease but 
prefers to set up ___ himself. 

Chronic Problems
=====================
GERD: 
Patient also noted worsening of his reflux symptoms. He was 
started on Maalox as needed.

#Hypertension
- Continued home lisinopril
- HCTz held pending possible coronary angiography

==================
CORE MEASURES:
==================
# CODE STATUS: Full code
# CONTACT: ___ (wife, ___

TRANSITIONAL ISSUES
==================
[] NSTEMI, Onyx DES to LCx: Patient started on DAPT with aspirin 
and ticagrelor and should continue for at least one year. Do not 
stop taking medication without consulting a cardiologist
[] New diagnosis of coronary artery disease. BB was not started 
as patient with HR in the ___. Consider adding BB if heart 
rates allow as outpatient.
[] New medications: Atorvastatin 80mg QHS, ticagrelor 90mg BID, 
aspirin 81mg daily.
[] Patient will be discharged with PCP ___ but would like 
to arrange his own Cardiology ___ as outpatient. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit oral DAILY 
3. Nexium 40 mg Other DAILY 
4. Atorvastatin 40 mg PO QPM 
5. lisinopril-hydrochlorothiazide ___ mg oral DAILY 

 
Discharge Medications:
1.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
Heartburn 
RX *alum-mag hydroxide-simeth 200 mg-200 mg-20 mg/5 mL 5 mL by 
mouth every 6 hours Disp #*1 Bottle Refills:*0 
2.  TiCAGRELOR 90 mg PO BID to prevent stent thrombosis 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth every evening Disp 
#*30 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit oral DAILY  
6.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
7.  Nexium 40 mg Other DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
NSTEMI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Why was I admitted to the hospital?
What was done while I was in the hospital?
A cardiac catheterization was performed which revealed a 
blockage in 1 of the main vessels in your heart.  The blockage 
was able to be repaired with a stent.
-He was started on a new medication called to capsular which 
helps to keep the stent open and prevents the stent being 
blocked again.  It is important that she maintain taking this 
medication

What should I do when I go home?
-Continue taking aspirin and ticagrelor for at least one year to 
ensure that your stent does not become blocked again. Do not 
stop taking medication without consulting a cardiologist
-Continue taking you statin everyday. 
-See a cardiologist within two weeks of discharge.
-Please see your primary care physician in the next ___ days. 
-If she notes symptoms similar to the chest pain that brought 
you to the hospital you should return to the hospital as this 
may be an indicator that you are having another heart attack.
 
Followup Instructions:
___